US08791107B2
PREPARATION x60: (R)-2-chloro-5-((1-methyl-1H-pyrazol-4-yl)methyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to PREPARATION x5 using (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 300 mg, 1.324 mmol) in DMSO (6 mL), sodium tert-butoxide (153 mg, 1.588 mmol) and 4-(chloromethyl)-1-methyl-1H-pyrazole (190 mg, 1.456 mmol) (113 mg, 26%). ESI-MS m/z [M+H]+ calc'd for C41H17ClN6O, 321.12. found 321.2.

reactant | (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 1.324 mmol, 300 mg | ClC1=NC=2N3[C@H](CNC2C=N1)COCC3 | C9H11ClN4O
reactant | sodium tert-butoxide | 1.588 mmol, 153 mg | CC(C)([O-])C.[Na+]
reactant | 4-(chloromethyl)-1-methyl-1H-pyrazole | 1.456 mmol, 190 mg | ClCC=1C=NN(C1)C | C5H7ClN2
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | (R)-2-chloro-5-((1-methyl-1H-pyrazol-4-yl)methyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | ClC1=NC=2N3[C@H](CN(C2C=N1)CC=1C=NN(C1)C)COCC3 | C14H17ClN6O
